US06825204B2
Synthesis of N-(1-Piperidinyl)-2-Methyl-3-Hydroxy-4-Pyridinone (PMHP)
Maltol (3.6 g, 30 mmol) and 1-aminopiperidine (4.5 g, 45 mmol) were suspended in 100 mL of water. The mixture was heated to reflux for 2 days. The mixture was cooled to room temperature, and the solvent was removed under vacuum to give a dark brown liquid. The residue was allowed to stand overnight, a solid was formed. The solid was collected by filtration and was then recrystallized in water to give brownish microcrystals. The product was collected by filtration, washed with water, and dried under vacuum overnight. The yield was 0.64 g (˜10.2%). LC-MS: M/z=209.3 for [C11H16N2O2]+. 1H NMR (600 MHz, in CD3OD, chemical shift in ppm relative to TMS): 1.34 (m, 1H, CH2); 1.81 (m, 5H, CH2); 2.40 (s, 3H, CH3); 3.00 (m, 4H, CH2); 6.43 (d, 1H, JHH=7.5 mHz, CH2/pyridinone); and 7.99 (d, 1H, JHH=7.5 mHz, CH/pyridinone).

reactant | Maltol | 30 mmol, 3.6 g | CC1=C(C(=O)C=CO1)O | C6H6O3
reactant | 1-aminopiperidine | 45 mmol, 4.5 g | NN1CCCCC1 | C5H12N2
solvent | water | 100 mL | O | H2O
product | N-(1-Piperidinyl)-2-Methyl-3-Hydroxy-4-Pyridinone | N1(CCCCC1)N1C(=C(C(C=C1)=O)O)C | C11H16N2O2
